US07626021B2
To a 0° C. mixture of 4-(dimethylamino)phenylacetic acid (4.91 g, 27.40 mmol) in tetrahydrofuran (150 ml), were added 2-chloro-4,6-dimethoxy-1,3,5-triazine (5.05 g, 28.76 mmol) and 4-methylmorpholine (9.6 ml, 87.32 mmol). The reaction mixture was stirred for 1 hour at 0° C. N,O-dimethylhydroxylamine hydrochloride (5.35 g, 54.84 mmol) was added and stirred for 18 hours at room temperature. The reaction was quenched with saturated ammonium chloride solution, and extracted with methylene chloride. The organic layer was dried over sodium sulfate, filtered, and concentrated in vacuo. The crude material was purified by flash chromatography (0 to 40% ethyl acetate in hexanes) to give 2.76 g (45%) of 2-(4-dimethylamino-phenyl)-N-methoxy-N-methyl-acetamide. 1H NMR (250 MHz, CDCl3) δ 7.15 (d, J=8.7 Hz, 2H), 6.67 (s, J=8.7 Hz, 2H), 3.65 (s, 2H), 3.58 (s, 3H), 3.16 (s, 3H), 2.89 (s, 6H).

reactant | 4-(dimethylamino)phenylacetic acid | 27.40 mmol, 4.91 g | CN(C1=CC=C(C=C1)CC(=O)O)C | C10H13NO2
reactant | 2-chloro-4,6-dimethoxy-1,3,5-triazine | 28.76 mmol, 5.05 g | ClC1=NC(=NC(=N1)OC)OC | C5H6ClN3O2
reactant | 4-methylmorpholine | 87.32 mmol, 9.6 ml | CN1CCOCC1 | C5H11NO
reactant | N,O-dimethylhydroxylamine hydrochloride | 54.84 mmol, 5.35 g | Cl.CNOC
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
product | 2-(4-dimethylamino-phenyl)-N-methoxy-N-methyl-acetamide | 2.76 g, 45% | CN(C1=CC=C(C=C1)CC(=O)N(C)OC)C | C12H18N2O2
